US04701461
1-(3',4'-Dimethoxyphenyl)-2-nitro-7-(4'-methylphenyl)-3-heptanone ethylene ketal
In a 500 mL rb flask, 200 mL cyclohexane, 50 mL benzene, 15 g.(0.242 mole) ethylene glycol, 1.5 g p-toluene-sulfonic acid and 19 g (0.049 mole) of 1-(3,4-dimethoxyphenyl)-2-nitro-7-(4-methylphenyl)-5-heptanone were combined and refluxed 24 hours with a Dean-Stark trap. The cooled reaction mixture was poured into cold, sat'd. NaHCO3 and extracted with three 200 mL portions of ethyl acetate. The organic Layer was dried over MgSO4, filtered and concentrated. The residue was triturated with ether and ethyl acetate to give some solid (1.5 g) of mp 89°-91° C.

reactant | cyclohexane | 200 mL | C1CCCCC1 | C6H12
reactant | ethylene glycol | 0.242 mole | C(CO)O | C2H6O2
reactant | p-toluene-sulfonic acid | 1.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 1-(3,4-dimethoxyphenyl)-2-nitro-7-(4-methylphenyl)-5-heptanone | 0.049 mole, 19 g | COC=1C=C(C=CC1OC)CC(CCC(CCC1=CC=C(C=C1)C)=O)[N+](=O)[O-] | C22H27NO5
solvent | benzene | 50 mL | C1=CC=CC=C1 | C6H6
product | 1-(3',4'-Dimethoxyphenyl)-2-nitro-7-(4'-methylphenyl)-3-heptanone ethylene ketal | 1.5 g | C1COC(C(CC2=CC(=C(C=C2)OC)OC)[N+](=O)[O-])(CCCCC2=CC=C(C=C2)C)O1 | C24H31NO6
